US09416138B2
(trans-5-Phenyl-1,4-dioxan-2-yl)methanamine
Combine trans-2-azidomethyl-5-phenyl-1,4-dioxane (319 mg, 1.46 mmol), triphenylphosphine (765 mg, 2.92 mmol), and THF (20 mL) and H2O (5 mL). Stir the reaction mixture at room temperature overnight. Add Dowex AG 50W-X8 cation exchange resin (ammonium form, 200-400 mesh, 1 g) to the reaction and stir at ambient temperature for 20 minutes. Filter and sequentially wash the resin with THF (10 mL) then H2O (10 mL). Elute by rinsing the SCX resin with NH3 in MeOH (120 mL 7N) and concentrate the filtrate under reduced pressure to provide the title compound (280 mg, 99.6%) as a colorless oil. MS (m/z): 194 (M+1).

reactant | trans-2-azidomethyl-5-phenyl-1,4-dioxane | 1.46 mmol, 319 mg | N(=[N+]=[N-])C[C@@H]1OC[C@H](OC1)C1=CC=CC=C1 | C11H13N3O2
reactant | triphenylphosphine | 2.92 mmol, 765 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | ammonium | [NH4+]
solvent | H2O | 5 mL | O | H2O
product | (trans-5-Phenyl-1,4-dioxan-2-yl)methanamine | 280 mg, 99.6% | C1(=CC=CC=C1)[C@H]1OC[C@@H](OC1)CN | C11H15NO2
